Runnable shared-phase local feature cell full smoke
* This is the self-contained version of the shared-phase local feature
* fragment.  It uses MOS devices only: no behavioral B sources.

.options method=gear reltol=1e-3 abstol=1e-12 vntol=1e-6

.model NMOS NMOS LEVEL=1 VTO=0.35 KP=220u LAMBDA=0.03 GAMMA=0.20 PHI=0.60
.model PMOS PMOS LEVEL=1 VTO=-0.35 KP=90u LAMBDA=0.03 GAMMA=0.20 PHI=0.60
.model NREL NMOS LEVEL=1 VTO=0.12 KP=260u LAMBDA=0.03 GAMMA=0.10 PHI=0.60
.model NSENSE NMOS LEVEL=1 VTO=0.03 KP=260u LAMBDA=0.03 GAMMA=0.05 PHI=0.60

.param Wfwd=3u
.param Wfwdn=2.25u
.param Wphase=12u
.param Werr=8u
.param Wupd=12u
.param Wwrite=0.25u
.param Wact=24u
.param Wreadp=64u
.param Wreadn=48u

Vdd vdd 0 1.2
Vx x 0 0.85
Vfwd fwd 0 PULSE(0 1.2 1n 10p 10p 4n 24n)
Verr err 0 PULSE(0 1.2 6n 10p 10p 3n 24n)
Vbwd bwd 0 PULSE(0 1.2 9n 10p 10p 3n 24n)
Vedp edp 0 PULSE(0 1.2 6n 10p 10p 6n 24n)
Vedn edn 0 0

* Shared forward phase rails for this feature.
Mhfpos_phase hfp_rail fwd pre 0 NMOS W={Wphase} L=180n
Mhfneg_phase pre fwd hfn_rail 0 NMOS W={Wphase} L=180n
Chfp_rail hfp_rail 0 0.1f IC=0
Chfn_rail hfn_rail 0 0.1f IC=0
Rhfp_rail hfp_rail 0 1G
Rhfn_rail hfn_rail 0 1G

* Signed hidden forward contribution for one pixel.
* Positive weight branch pulls/drives pre through hfp_rail.
Mhpos_x vdd x hp_0 0 NMOS W={Wfwd} L=180n
Mhpos_w hp_0 whp hfp_rail 0 NMOS W={Wfwd} L=180n
Rhp_0 hp_0 0 1G

* Negative weight branch sinks from pre through hfn_rail.
Mhneg_x hfn_rail x hn_0 0 NMOS W={Wfwdn} L=180n
Mhneg_w hn_0 whn 0 0 NMOS W={Wfwdn} L=180n
Rhn_0 hn_0 0 1G

* Persistent signed pixel weight state.
Cwhp whp 0 20f IC=0.7
Cwhn whn 0 20f IC=0.2
Rwhp whp 0 1e15
Rwhn whn 0 1e15

* Stored bias contribution.
Mhbpos_b vdd bhp hbp_0 0 NMOS W={Wfwd} L=180n
Mhbpos_f hbp_0 fwd pre 0 NMOS W={Wfwd} L=180n
Mhbneg_f pre fwd hbn_0 0 NMOS W={Wfwdn} L=180n
Mhbneg_b hbn_0 bhn 0 0 NMOS W={Wfwdn} L=180n
Rhbp_0 hbp_0 0 1G
Rhbn_0 hbn_0 0 1G
Cbhp bhp 0 20f IC=0.5
Cbhn bhn 0 20f IC=0.2
Rbhp bhp 0 1e15
Rbhn bhn 0 1e15

* Activation storage / analog ReLU-ish transfer.
Mrelu_h vdd pre act 0 NREL W={Wact} L=180n
Cpre pre 0 10f IC=0
Cact act 0 10f IC=0
Rpre pre 0 1G
Ract act 0 1G

* Readout contribution from activation to differential score rails.
Movpos_a vdd act op_0 0 NSENSE W={Wreadp} L=180n
Movpos_w op_0 vwp op_1 0 NSENSE W={Wreadp} L=180n
Movpos_f op_1 fwd score 0 NSENSE W={Wreadp} L=180n
Movneg_a vdd act on_0 0 NSENSE W={Wreadn} L=180n
Movneg_w on_0 vwn on_1 0 NSENSE W={Wreadn} L=180n
Movneg_f on_1 fwd scoren 0 NSENSE W={Wreadn} L=180n
Rop_0 op_0 0 1G
Rop_1 op_1 0 1G
Ron_0 on_0 0 1G
Ron_1 on_1 0 1G
Cscore score 0 10f IC=0
Cscoren scoren 0 10f IC=0
Rscore score 0 1G
Rscoren scoren 0 1G
Cvwp vwp 0 20f IC=0.52
Cvwn vwn 0 20f IC=0.25
Rvwp vwp 0 1e15
Rvwn vwn 0 1e15

* Restored readout-weight sign for hidden credit.
Mrvwp_p rvwp rvwn vdd vdd PMOS W=6u L=180n
Mrvwn_p rvwn rvwp vdd vdd PMOS W=6u L=180n
Mrvwp_n rvwp vwn rvw_src 0 NSENSE W=6u L=180n
Mrvwn_n rvwn vwp rvw_src 0 NSENSE W=6u L=180n
Mrvw_tail rvw_src err 0 0 NMOS W=6u L=180n
Crvwp rvwp 0 4f IC=1.2
Crvwn rvwn 0 4f IC=1.2
Crvw_src rvw_src 0 0.1f IC=0
Rrvwp rvwp 0 1G
Rrvwn rvwn 0 1G
Rrvw_src rvw_src 0 1G

* Hidden error: restored error rails edp/edn crossed with restored readout sign.
Mhdp_pv_e vdd edp hdp_pv_e 0 NSENSE W={Werr} L=180n
Mhdp_pv_w hdp_pv_e rvwp hdp_pv_w 0 NSENSE W={Werr} L=180n
Mhdp_pv_a hdp_pv_w act hdp_pv_a 0 NREL W={Werr} L=180n
Mhdp_pv_b hdp_pv_a bwd hdp 0 NMOS W={Werr} L=180n
Mhdp_nv_e vdd edn hdp_nv_e 0 NSENSE W={Werr} L=180n
Mhdp_nv_w hdp_nv_e rvwn hdp_nv_w 0 NSENSE W={Werr} L=180n
Mhdp_nv_a hdp_nv_w act hdp_nv_a 0 NREL W={Werr} L=180n
Mhdp_nv_b hdp_nv_a bwd hdp 0 NMOS W={Werr} L=180n

Mhdn_pv_e vdd edp hdn_pv_e 0 NSENSE W={Werr} L=180n
Mhdn_pv_w hdn_pv_e rvwn hdn_pv_w 0 NSENSE W={Werr} L=180n
Mhdn_pv_a hdn_pv_w act hdn_pv_a 0 NREL W={Werr} L=180n
Mhdn_pv_b hdn_pv_a bwd hdn 0 NMOS W={Werr} L=180n
Mhdn_nv_e vdd edn hdn_nv_e 0 NSENSE W={Werr} L=180n
Mhdn_nv_w hdn_nv_e rvwp hdn_nv_w 0 NSENSE W={Werr} L=180n
Mhdn_nv_a hdn_nv_w act hdn_nv_a 0 NREL W={Werr} L=180n
Mhdn_nv_b hdn_nv_a bwd hdn 0 NMOS W={Werr} L=180n

Chdp hdp 0 10f IC=0
Chdn hdn 0 10f IC=0
Rhdp hdp 0 1G
Rhdn hdn 0 1G
Rhdp_pv_e hdp_pv_e 0 1G
Rhdp_pv_w hdp_pv_w 0 1G
Rhdp_pv_a hdp_pv_a 0 1G
Rhdp_nv_e hdp_nv_e 0 1G
Rhdp_nv_w hdp_nv_w 0 1G
Rhdp_nv_a hdp_nv_a 0 1G
Rhdn_pv_e hdn_pv_e 0 1G
Rhdn_pv_w hdn_pv_w 0 1G
Rhdn_pv_a hdn_pv_a 0 1G
Rhdn_nv_e hdn_nv_e 0 1G
Rhdn_nv_w hdn_nv_w 0 1G
Rhdn_nv_a hdn_nv_a 0 1G

.tran 10p 24n uic
.meas tran pre_forward FIND V(pre) AT=4n
.meas tran act_forward FIND V(act) AT=4n
.meas tran score_forward FIND V(score) AT=4n
.meas tran scoren_forward FIND V(scoren) AT=4n
.meas tran rvwp_after_err FIND V(rvwp) AT=8n
.meas tran rvwn_after_err FIND V(rvwn) AT=8n
.meas tran hdp_after_bwd FIND V(hdp) AT=12n
.meas tran hdn_after_bwd FIND V(hdn) AT=12n
.end
